US09145433B2
Analogous to the reaction conditions and work-up procedures used in the preparation of 5-(2-chloropyridin-3-yl)-1H-indazole, 5-(2-chloropyridin-3-yl)-1H-indazole was obtained by heating the mixture of tert-butyl 6-bromo-1H-indazole-carboxylate (7.3 g, 24.6 mmol), 2-chloro-3-pyridine boronic acid pinacol ester (7.0 g, 29.5 mmol), Pd(PPh3)4 (2 g, 1.7 mmol) and aq.Na2CO3 (44 mL, 88 mmol) in 1,4-dioxane (200 mL) under argon atmosphere. The crude concentrate that was obtained after the extractive work-up dissolved in CH2Cl2, adsorbed on to silica gel and dried. Subsequent purification by flash silica gel column chromatography (Combiflash® companion System® with RediSep® silica gel column 120 g, 30-70% EtOAC/hexanes eluting solvent gradient upon dry powder loading) provided 5-(2-chloropyridin-3-yl)-1H-indazole as a white solid (4.2 g, 74%). 1H NMR (DMSO-d6): δ 13.21 (s, 1H), 8.43 (dd, 1H, J=1.7 and 4.7 Hz), 8.12 (s, 1H), 7.93 (dd, 1H, J=1.7 and 7.6 Hz), 7.84 (d, 1H, J=8.5 Hz), 7.59 (s, 1H), 7.52 (dd, 1H, J=4.7 and 7.6 Hz), 7.17 (d, 1H, J=8.5 Hz).LCMS: rt 6.17 min (A), purity 98%, MS (m/e) 230 (MH+).

reactant | tert-butyl 6-bromo-1H-indazole-carboxylate | 24.6 mmol, 7.3 g | BrC1=CC=C2C(=NNC2=C1)C(=O)OC(C)(C)C | C12H13BrN2O2
reactant | 2-chloro-3-pyridine boronic acid pinacol ester | 29.5 mmol, 7.0 g | ClC1=NC=CC=C1B1OC(C)(C)C(C)(C)O1 | C11H15BClNO2
reactant | Na2CO3 | 88 mmol, 44 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 1.7 mmol, 2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-chloropyridin-3-yl)-1H-indazole | 4.2 g, 74% | ClC1=NC=CC=C1C=1C=C2C=NNC2=CC1 | C12H8ClN3
